US07115624B1
7-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (353 mg, 0.88 mmol) was cooled in an ice bath and then dissolved in a solution of 20% trifluoroacetic acid/dichloromethane (7 ml). The reaction was stirred for 5 minutes in the ice bath then another 3 hours at ambient temperature, after which it was concentrated in vacuo affording a solid residue. To the solid was added 2N hydrochloric acid (9 ml) and the mixture was heated at 50° C. (oil bath) with stirring for 24 h. The cooled reaction mixture was quenched with saturated sodium bicarbonate solution until the pH was basic. The aqueous layer was extracted with chloroform (3×20 ml) and the combined organic extracts dried (K2CO3), filtered, and the solvent evaporated in vacuo to give 205 mg (91%) of 2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione as a solid.

reactant | 7-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 0.88 mmol, 353 mg | C(C)(C)(C)OC(=O)N1C(CC2(OCCO2)CC1)CN1C(C2=CC=CC=C2C1=O)=O | C21H26N2O6
reactant | hydrochloric acid | 2N, 9 ml | Cl | ClH
solvent | trifluoroacetic acid dichloromethane | 7 ml | FC(C(=O)O)(F)F.ClCCl
product | 2-(4-oxo-piperidin-2-ylmethyl)-isoindole-1,3-dione | 205 mg, 91% | O=C1CC(NCC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H14N2O3
